US05834506
4-Hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 4 using 30 g of 6-[2-(4-benzyloxy-phenyl)-ethyl]-4-hydroxy-6-isopropyl-5,6-dihydro-pyran-2-one (prepared in the paragraph above), 3 g of 20% Pd over charcoal and 600 mL of THF. The crude compound was purified by silica gel filtration. 1H NMR (DMSO-d6) δ 0.83 (d, 3 H), 0.86 (d, 3 H), 1.78 (m, 2 H), 2.06 (m, 1 H), 2.25 (d of ABX q, 1 H), 2.39 (m, 2 H), 2.53 (d of ABX q, 1 H), 4.89 (s, 1 H), 6.6 (d, 2 H), 6.89 (d, 2 H), 9.1 (br s, 1 H).

reactant | 6-[2-(4-benzyloxy-phenyl)-ethyl]-4-hydroxy-6-isopropyl-5,6-dihydro-pyran-2-one | 30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1(CC(=CC(O1)=O)O)C(C)C | C23H26O4
reactant | charcoal | C | CH4
catalyst | Pd | 3 g | [Pd] | Pd
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one | OC1=CC(OC(C1)(C(C)C)CCC1=CC=C(C=C1)O)=O | C16H20O4
